US07795281B2
According to Japanese Examined Patent Publication (Kokoku) No. Hei 3-31715, sodium methoxide (0.27 g) was added to a solution of 2-(3-nitrobenzylidene)acetoacetic acid isopropyl ester (1.39 g) and amidinoacetic acid (1-benzhydryl-3-azetidinyl) ester acetate (1.62 g) in isopropyl alcohol (80 ml) and the mixture was heated under reflux for 4 hours. After the reaction mixture was cooled, insoluble material was removed and the solvent was evaporated under reduced pressure. The thus obtained residue was dissolved in ethyl acetate and the mixture was washed with water, followed by drying over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure and the residue was subjected to silica gel column chromatography (toluene:ethyl acetate=3:1) to obtain pale yellow (±)-2-amino-1,4-dihydro-6-methyl-4-(3-nitrophenyl)-3,5-pyridinedicarboxylic acid 3-(1-diphenylmethylazetidin-3-yl) ester 5-isopropyl ester (2.17 g, 74%).

reactant | sodium methoxide | 0.27 g | C[O-].[Na+]
reactant | 2-(3-nitrobenzylidene)acetoacetic acid isopropyl ester | 1.39 g | C(C)(C)OC(C(C(=O)C)=CC1=CC(=CC=C1)[N+](=O)[O-])=O | C14H15NO5
reactant | amidinoacetic acid (1-benzhydryl-3-azetidinyl) ester acetate | 1.62 g | C(C)(=O)O.C(C1=CC=CC=C1)(C1=CC=CC=C1)N1CC(C1)OC(CC(N)=N)=O
solvent | isopropyl alcohol | 80 ml | C(C)(C)O | C3H8O
product | (±)-2-amino-1,4-dihydro-6-methyl-4-(3-nitrophenyl)-3,5-pyridinedicarboxylic acid 3-(1-diphenylmethylazetidin-3-yl) ester 5-isopropyl ester | 2.17 g, 74% | C(C)(C)OC(=O)C=1C(C(=C(NC1C)N)C(=O)OC1CN(C1)C(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC(=CC=C1)[N+](=O)[O-] | C33H34N4O6
